US07452894B2
2-Amino-6-(2-furyl)-N-phenyl-9H-purine-9-acetamide (Example 85)
A solution of 2-amino-6-(2-furyl)-9H-purine-9-acetic acid (129 mg, 0.5 mmol) in DCM (2 mL) was treated with EDCI (96 mg, 0.5 mmol) and aniline (45 μL, 0.5 mmol), stirred at room temperature for 3 days, diluted with DCM, washed with water, dried (MgSO4), concentrated in vacuo and purified by chromatography (SiO2; 1% MeOH in EtOAc) to give the title compound (51 mg, 31%) as a white solid.

reactant | 2-amino-6-(2-furyl)-9H-purine-9-acetic acid | 0.5 mmol, 129 mg | NC1=NC(=C2N=CN(C2=N1)CC(=O)O)C=1OC=CC1 | C11H9N5O3
reactant | EDCI | 0.5 mmol, 96 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | aniline | 0.5 mmol, 45 μL | NC1=CC=CC=C1 | C6H7N
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 2-Amino-6-(2-furyl)-N-phenyl-9H-purine-9-acetamide | 51 mg, 31% | NC1=NC(=C2N=CN(C2=N1)CC(=O)NC1=CC=CC=C1)C=1OC=CC1 | C17H14N6O2
